US07723345B2
Alternatively, 1-(4-bromophenyl)-2,2,2-trifluoroethanol (0.98 g, 3.86 mmol), m-tolylboronic acid (0.63 g, 4.63 mmol), Pd(PPh3)2Cl2 (0.16 g, 0.232 mmol Pd), Na2CO3 (0.90 g, 8.49 mmol), AcCN (10 mls), and H2O (10 mls) were combined and heated in the microwave at 150° C. for 10 minutes. The reaction was shown complete by TLC (CH2Cl2). The mixture was cooled, concentrated, slurried in CH2Cl2, filtered, and chromatographed over silica gel (CH2Cl2) to give 0.80 g of 2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethanol. Yield: 79%.

reactant | 1-(4-bromophenyl)-2,2,2-trifluoroethanol | 3.86 mmol, 0.98 g | BrC1=CC=C(C=C1)C(C(F)(F)F)O | C8H6BrF3O
reactant | m-tolylboronic acid | 4.63 mmol, 0.63 g | C1(=CC(=CC=C1)B(O)O)C | C7H9BO2
reactant | Na2CO3 | 8.49 mmol, 0.90 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | AcCN | 10 mls | C(=O)(C)C#N | C3H3NO
catalyst | Pd(PPh3)2Cl2 | 0.232 mmol, 0.16 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mls | O | H2O
product | 2,2,2-trifluoro-1-(3′-methylbiphenyl-2-yl)ethanol | 0.80 g, Yield: 79% | FC(C(O)C1=C(C=CC=C1)C1=CC(=CC=C1)C)(F)F | C15H13F3O
